US04722929
2-(2-Dimethylamino-4-acetamino-phenyl)-4H-imidazo[4,5-b]pyridin-5-one
A quantity of 0.6 gm of 2-(2-dimethylamino-4-amino-phenyl)imidazo[4,5-b]pyridin-5-one is refluxed with 20 ml of acetic anhydride for 30 minutes. After evaporation, 10 ml of concentrated ammnoia and then 20 ml of ice are added. The product precipitated is suction filtered and washed with water.

reactant | 2-(2-dimethylamino-4-amino-phenyl)imidazo[4,5-b]pyridin-5-one | 0.6 gm | CN(C1=C(C=CC(=C1)N)C=1N=C2C(=NC(C=C2)=O)N1)C | C14H13N5O
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(2-Dimethylamino-4-acetamino-phenyl)-4H-imidazo[4,5-b]pyridin-5-one | CN(C1=C(C=CC(=C1)NC(=O)C)C1=NC=2C(NC(CC2)=O)=N1)C | C16H17N5O2
